US08957070B2
2-{7-[(2-Thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-4-carboxylic acid
A mixture of ethyl 2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-4-carboxylate (0.30 g), 8N aqueous sodium hydroxide solution (0.3 mL), tetrahydrofuran (4 mL) and methanol (4 mL) was stirred at 60° C. for 1 hr. The reaction mixture was concentrated, and water was added to the residue. The mixture was acidified with 10% aqueous citric acid solution, and the resulting crystals were filtrated, washed with water and dried. The obtained crystals were dissolved in tetrahydrofuran, treated with activated carbon, and concentrated to give the title compound (0.20 g, yield 71%) as yellow crystals. melting point>273° C. (decomposition).

reactant | ethyl 2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-4-carboxylate | 0.30 g | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C=1SC=C(N1)C(=O)OCC | C18H15N3O4S3
reactant | sodium hydroxide | 8N, 0.3 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
product | 2-{7-[(2-Thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-4-carboxylic acid | 0.20 g, yield 71% | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C=1SC=C(N1)C(=O)O | C16H11N3O4S3
